US08207178B2
Step D: (E)-tert-butyl 4-(4-bromo-2,6-dimethylphenoxy)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-yl(4-cyanophenyl)carbamate
To a heterogeneous mixture of (E)-4-(4-(4-bromo-2,6-dimethylphenoxy)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile (23.41 g, 46.0 mmol), potassium carbonate (8.88 g, 64.4 mmol), 4-dimethylaminopyridine (0.56 g, 4.6 mmol) in dichloromethane (300 ml) was added a solution of Boc2O (11.43 g, 50.6 mmol) in DCM (100 ml) over 30 minutes. The mixture was stirred for 3 hours at room temperature. The reaction mixture was washed with brine and extracted with dichloromethane (×3). The organic layer were combined, dried over MgSO4 and concentrated to dryness to yield to the title compound as a yellow solid (28.0 g, 45.9 mmol, 99%), which was used for the next step without further purification.

reactant | (E)-4-(4-(4-bromo-2,6-dimethylphenoxy)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile | 46.0 mmol, 23.41 g | BrC1=CC(=C(OC2=NC(=NC(=C2[N+](=O)[O-])\C=C\N(C)C)NC2=CC=C(C#N)C=C2)C(=C1)C)C | C23H21BrN6O3
reactant | potassium carbonate | 64.4 mmol, 8.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | Boc2O | 50.6 mmol, 11.43 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 4.6 mmol, 0.56 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | (E)-tert-butyl 4-(4-bromo-2,6-dimethylphenoxy)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-yl(4-cyanophenyl)carbamate | 45.9 mmol, 28.0 g, 99% | BrC1=CC(=C(OC2=NC(=NC(=C2[N+](=O)[O-])\C=C\N(C)C)N(C(OC(C)(C)C)=O)C2=CC=C(C=C2)C#N)C(=C1)C)C | C28H29BrN6O5
